US07517880B2
N-(2-Methoxy-5-(trifluoromethyl)phenyl)-N′-(3-(4-pyridinylthio)phenyl)urea:
To a solution of pyridine (0.61 mL, 7.5 mmol, 3.0 equiv) and phosgene (20% in toluene; 2.65 mL, 5.0 mmol, 2.0 equiv) in CH2Cl2 (20 mL) was added 2-methoxy-5-(trifluoromethyl)aniline (0.48 g, 2.5 mmol) at 0° C. The resulting mixture was allowed warm to room temp. stirred for 3 h, then treated with anh. toluene (100 mL) and concentrated under reduced pressure. The residue was suspended in a mixture of CH2Cl2 (10 mL) and anh. pyridine (10 mL) and treated with 3-(4-pyridinylthio)aniline (0.61 g, 2.5 mmol, 1.0 equiv). The mixture was stirred overnight at room temp., then poured into water (50 mL) and extracted with CH2Cl2 (3×25 mL). The combined organic layers were dried (MgSO4) and concentrated under reduced pressure. The residue was dissolved in a minimal amount of CH2Cl2 and treated with pet. ether to give the desired product as a white precipitate (0.74 g, 70%): mp 202° C.; TLC (5% acetone/95% CH2Cl2) Rf 0.09; 1H-NMR (DMSO-d6) δ 7.06 (d, J=5.5 Hz, 2H), 7.18 (dd, J=2.4, 4.6 Hz, 2H), 7.31 (dd, J=2.2, 9.2 Hz, 1H), 7.44 (d, J=5.7 Hz, 1H), 7.45 (s, 1H), 7.79 (d, J=2.2 Hz, 1H), 8.37 (s, 2H), 8.50 (dd, J=2.2, 9.2 Hz, 2H), 9.63 (s, 1H), 9.84 (s, 1H); FAB-MS m/z 420 ((M+H)+, 70%). B2b. General Method for Reaction of an Aryl Amine with Phosgene Followed by Addition of a Second Aryl Amine

reactant | pyridine | 7.5 mmol, 0.61 mL, 3.0 equiv | N1=CC=CC=C1 | C5H5N
reactant | phosgene | 5.0 mmol, 2.65 mL, 2.0 equiv | C(=O)(Cl)Cl | CCl2O
reactant | 2-methoxy-5-(trifluoromethyl)aniline | 2.5 mmol, 0.48 g | COC1=C(N)C=C(C=C1)C(F)(F)F | C8H8F3NO
reactant | 3-(4-pyridinylthio)aniline | 2.5 mmol, 0.61 g, 1.0 equiv | N1=CC=C(C=C1)SC=1C=C(N)C=CC1 | C11H10N2S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-Methoxy-5-(trifluoromethyl)phenyl)-N′-(3-(4-pyridinylthio)phenyl)urea | COC1=C(C=C(C=C1)C(F)(F)F)NC(=O)NC1=CC(=CC=C1)SC1=CC=NC=C1 | C20H16F3N3O2S
